US06051712
In an analogous manner to that described in Example 36(b), by condensing (3RS,4RS)-4-(1-tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-benzoic acid with 3-amino-1-phenyl-propan-1-one there was obtained tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(3-oxo-3-phenyl-propylcarbamoyl)-phenyl]-piperidine-1-carboxylate as a colourless foam; MS: 593 (M+H)+.

reactant | (3RS,4RS)-4-(1-tert-butoxycarbonyl-3-naphthalen-2-ylmethoxy-piperidin-4-yl)-benzoic acid | C(C)(C)(C)OC(=O)N1CC(C(CC1)C1=CC=C(C(=O)O)C=C1)OCC1=CC2=CC=CC=C2C=C1 | C28H31NO5
reactant | 3-amino-1-phenyl-propan-1-one | NCCC(=O)C1=CC=CC=C1 | C9H11NO
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(3-oxo-3-phenyl-propylcarbamoyl)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)C(NCCC(C1=CC=CC=C1)=O)=O)C(=O)OC(C)(C)C | C37H40N2O5
